US05602161
4-Isopropylaniline (1.35 g) was added to a mixed solution of 50% ethanol (16 ml) and concentrated hydrochloric acid (2.6 ml). To the mixture was added a solution of sodium nitrite (0.69 g) in water (4 ml) over 10 min below 5° C. and stirring was continued for 10 min. To a solution of 4-methoxybenzaldehyde phenylsulfonylhydrazone (2.9 g) in pyridine (60 ml) was added dropwise the above solution of diazonium salt during 20 min at -10° C.~-15° C., and stirring was continued for 30 min at -10° C. and for 30 min at room temperature. The mixture was poured into ice water and extracted with ethyl acetate. The extract was washed succesively with 4 N hydrochloric acid, water, aqueous sodium carbonate,and water, dried, and evaporated to dryness. The residue was purified by column chromatography on silica gel with benzene-hexane (1/2-2/1) as an eluate to give 2-(4-isopropylphenyl)-5-(4-methoxyphenyl)tetrazole (1.6 g,54%). To a solution of 2-(4- isopropylphenyl)-5-(4-methoxyphenyl)tetrazole (1.3 g) in dichloromethane (10 ml) was added dropwise boron tribromide (10 ml,2.6M solution in dichloromethane) at -10° C. Stirring was continued for 1 h at -10° C. and for 1 h at room temperature. To the mixture was added water (20 ml), and the mixture was extracted with chloroform. The extract was washed with water, dried and evaporated to dryness. The residue was recrystallized from benzene to give 1.1 g (72%) of the title compound.

reactant | 4-Isopropylaniline | 1.35 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | hydrochloric acid | 2.6 ml | Cl | ClH
reactant | sodium nitrite | 0.69 g | N(=O)[O-].[Na+]
reactant | 4-methoxybenzaldehyde phenylsulfonylhydrazone | 2.9 g | C1(=CC=CC=C1)S(=O)(=O)NN=CC1=CC=C(C=C1)OC | C14H14N2O3S
solvent | water | 4 ml | O | H2O
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | 2-(4-isopropylphenyl)-5-(4-methoxyphenyl)tetrazole | 1.6 g, 54% | C(C)(C)C1=CC=C(C=C1)N1N=C(N=N1)C1=CC=C(C=C1)OC | C17H18N4O
